US07157488B2
Dissolve fuming nitric acid (24 mL) in concentrated H2SO4 in a round bottom flask. Add 3,4-difluorobromobenzene (20 g, 104 mmol) dropwise via pipette with vigorous stirring. After addition, stir the reaction at room temperature for 2 hours, pour the reaction into ice water and extract with Et2O (2×250 mL). Collect and combine the organic layers, dry over MgSO4, filter, and remove the solvent to give 1-bromo-4,5-difluoro-2-nitrobenzene as a light yellow oil.

reactant | nitric acid | 24 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3,4-difluorobromobenzene | 104 mmol, 20 g | FC=1C=C(C=CC1F)Br | C6H3BrF2
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 1-bromo-4,5-difluoro-2-nitrobenzene | BrC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2BrF2NO2
